* =============================================================
* Simulation 03: Twin-T Notch Filter (50 Hz)
* Project: sEMG Prosthetic FYP | Ian Kiarie | JKUAT
* Goal: Verify notch depth > 30 dB at 50 Hz
*
* Component values for 50 Hz:
*   R  = 10kΩ (×2),  R/2 = 5.1kΩ (nearest to 5kΩ, use trimpot for tuning)
*   C  = 330nF (×2), 2C  = 680nF  (nearest to 318 nF × 2 = 636 nF)
*   f_notch = 1/(2π×R×C) = 1/(2π×10k×330n) = 48.2 Hz
*   NOTE: with 330nF (not ideal 318nF), notch is at ~48 Hz; add trimpot to tune to 50 Hz
*
* Active twin-T (with positive feedback for deeper notch) uses MCP6002
* =============================================================
.TITLE Twin-T Notch Filter 50 Hz

* ---- Models ----
.INCLUDE models/MCP6002.lib

* ---- Supplies ----
VCC   VCC  0  DC 5
VMID  VMID 0  DC 2.5

* ---- Input: 1V AC ----
VIN  IN  0  AC 1

* ============================
* Passive Twin-T Network
*   Top path:    R1, R2 in series + C3 to ground
*   Bottom path: C1, C2 in series + R3 (=R/2) to ground
* ============================
* Top path: R → R → node → C_cross to GND
R_T1   IN       NT1     10K
R_T2   NT1      NOTCH   10K
C_T3   NT1      VMID    680N

* Bottom path: C → C → node → R_cross to GND
C_T1   IN       NB1     330N
C_T2   NB1      NOTCH   330N
R_T3   NB1      VMID    5.1K

* ---- Load into unity-gain buffer (prevents loading the twin-T) ----
XBUF   NOTCH  NOTCH_OUT  VCC  0  NOTCH_OUT  MCP6002

RLOAD  NOTCH_OUT  0  1MEG

* ---- Analysis ----
.AC DEC 500 10 1K

.CONTROL
  run
  plot vdb(notch_out) title "Twin-T Notch Filter 50 Hz Bode"
  *
  * Measure notch depth at 50 Hz
  meas ac notch_50hz FIND vdb(notch_out) AT=50
  meas ac gain_100hz FIND vdb(notch_out) AT=100
  meas ac gain_1khz  FIND vdb(notch_out) AT=1000
  echo "Notch depth at 50 Hz (target < -30 dB):" $&notch_50hz
  echo "Passband gain at 100 Hz (should be ~0 dB):" $&gain_100hz
  echo "Passband gain at 1 kHz (should be ~0 dB):" $&gain_1khz
  write sim03_notch.raw
.ENDC

.END
